US07419620B2
Preparation of 2-(6-Chlorohexyloxy)tetrahydropyrane
To a mixture of 15 g of 6-chlorohexanol, 100 ml of methylenechloride and 0.2 g of p-toluenesulphonic acid were added dropwise 12 g of dihydropyrane in 40 ml of methylenechloride. The reaction mixture was stirred for 15 h at room temperature and then distributed between ether and saturated sodium bicarbonate solution. The ether phase was washed with water, dried over sodium sulphate, filtered and concentrated to dryness. Chromatography of the residue on silica using hexane/ether (3:1) gave 21 g of the product as a colourless oil.

reactant | 6-chlorohexanol | 15 g | ClCCCCCCO | C6H13ClO
reactant | dihydropyrane | 12 g | O1CCCC=C1 | C5H8O
reactant | ether | CCOCC | C4H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylenechloride | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | p-toluenesulphonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methylenechloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(6-Chlorohexyloxy)tetrahydropyrane | 21 g | ClCCCCCCOC1OCCCC1 | C11H21ClO2
